US06953793B2
B. 4-(5-Chloro-2-hydroxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester.
2-Amino-4-chloro-phenol (30.0 g, 209 mmol) and 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (46.0 g, 231 mmol) were set stirring in dichloromethane (600 mL). Sodium triacetoxyborohydride (58.0 g, 274 mmol) was added in portions over 10 min. Acetic acid (12 mL, 210 mmol) was then added and the mixture left to stir for 18 h. Saturated NaHCO3 was added and the organics seperated. The organics were dried (MgSO4) and evaporated to give 56 g (82%) of a light beige solid. TLC (silica, 50% EtOAc/hexanes): Rf=0.66. MS (electrospray): exact mass calculated for C16H23ClN2O3, 326.14. m/z found, 349.1 [M+Na]+. 1H NMR (400 MHz, DMSO-d6): 6.70 (d, J=8.3 Hz, 1H), 6.63 (s, 1H), 6.47 (d, J=8.2 Hz, 1H), 3.97 (d, J=12.2 Hz, 2H), 3.55-3.50 (m, 1H), 2.93 (br s, 2H), 1.93 (d, J=11.1 Hz, 2H), 1.48 (s, 9H), 1.35 (d, J=11.2 Hz, 2H).

reactant | 2-Amino-4-chloro-phenol | 209 mmol, 30.0 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 231 mmol, 46.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Sodium triacetoxyborohydride | 274 mmol, 58.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 210 mmol, 12 mL | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | 4-(5-Chloro-2-hydroxy-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 56 g, 82% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)O | C16H23ClN2O3
